US07169926B1
As described in example 3F, [3-(3-benzyl-5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester (70 mg, 0.135 mmol) was hydrogenated over 10% Pd/C (70 mg, 0.066 mmol) to give 2-(3-amino-cyclohexyl)-3-benzyl-5-methyl-3,5-dihydro-imidazo[4,5-c]quinolin-4-one (45 mg, 87% yield). The HCl salt was prepared by treating the amine in EtOAc with ethereal HCl (0.3 mL). 1H-NMR (CD3OD): δ 8.53 (d, 1H,J=8.0 Hz), 7.78 (m, 2H), 7.53 (m, 1H), 7.36 (m, 5H), 6.38 (m, 1H), 6.13 (m, 1H), 3.84 (s, 3H), 3.53 (m, 1H), 3.34 (m, 1H), 2.17 (m, 2H), 1.94 (m, 2H), 1.79 (m, 2H), 1.58 (m, 2H). MS: calculated for C24H26N4O+H 387.2; found: 387.3.

reactant | [3-(3-benzyl-5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 0.135 mmol, 70 mg | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1CC1=CC=CC=C1)=O | C32H32N4O3
catalyst | Pd/C | 0.066 mmol, 70 mg | [Pd] | Pd
product | 2-(3-amino-cyclohexyl)-3-benzyl-5-methyl-3,5-dihydro-imidazo[4,5-c]quinolin-4-one | 45 mg, 87% yield | NC1CC(CCC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1CC1=CC=CC=C1 | C24H26N4O
